US20010018525A1
Step 1 [3,3″-Dimethyl-5′-(7-phenyl-heptylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]acetic acid tert-butyl ester
To a solution of 2′-hydroxy-3,3″-dimethyl-[1,1′;3′,1″]terphenyl-5′-carboxylic acid (7-phenyl-heptyl)-amide (240 mg, 0.516 mmol) in 2.5 mL anhydrous DMF was added solid K2CO3 (84 mg, 0.613 mmol). The reaction mixture was stirred at room temperature for 2 min before t-butyl bromoacetate (158 mg, 0.812 mmol, 812 μL) was added. The reaction was stirred overnight at room temperature after which point it was diluted with water and extracted with EtOAc (3×). The combined organic layers were washed with water to remove DMF. Then they were dried with Na2SO4 and the solvent was removed in vacuo to give an oil that was subjected to flash column chromatography (15% EtOAc:85% Hexanes) to yield 180 mg, 60% of a colorless oil. 1H NMR (CDCl3) δ1.25 (s, 9H); 1.25-1.40 (m, 6H); 1.28-1.47 (m, 4H); 2.40 (s, 6H); 2.57 (t, J=8.18 Hz, 2H); 3.43 (quartet, J=8.18 Hz, 2H); 3.73 (s, 2H); 6.06 (t, J=5.73 Hz, 1H); 7.08-7.20 (m, 5H); 7.20-7.32 (m, 4H); 7.37-7.46 (m, 4H); 7.68 (s, 2H).

reactant | 2′-hydroxy-3,3″-dimethyl-[1,1′;3′,1″]terphenyl-5′-carboxylic acid (7-phenyl-heptyl)-amide | 0.516 mmol, 240 mg | C1(=CC=CC=C1)CCCCCCCNC(=O)C=1C=C(C(=C(C1)C1=CC(=CC=C1)C)O)C1=CC(=CC=C1)C | C34H37NO2
reactant | K2CO3 | 0.613 mmol, 84 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | t-butyl bromoacetate | 0.812 mmol, 812 μL, 158 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [3,3″-Dimethyl-5′-(7-phenyl-heptylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]acetic acid tert-butyl ester | 180 mg, 60% | C(C)(C)(C)OC(COC1=C(C=C(C=C1C1=CC(=CC=C1)C)C(NCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C)=O | C40H47NO4
